US05571842
b) 2-Isopropylbenzenesulfonyl fluoride
27 g of 2-isopropylbenzenesulfonyl chloride and 22 g of KF are stirred in 75 ml of dioxane and 20 ml of water at 45° C. for 27 h and at RT for 45 h. 800 ml of water are then added, and the mixture is extracted with 3×300 ml of EA. The combined organic phases are dried over Na2SO4 and the solvent is removed in vacuo. 24 g of a colorless oil are obtained.

reactant | 2-isopropylbenzenesulfonyl chloride | 27 g | C(C)(C)C1=C(C=CC=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | KF | 22 g | [F-].[K+]
reactant | water | 20 ml | O | H2O
reactant | water | 800 ml | O | H2O
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 2-Isopropylbenzenesulfonyl fluoride | 24 g | C(C)(C)C1=C(C=CC=C1)S(=O)(=O)F | C9H11FO2S
